* ============================================================================
* Diamond Mine Shimmer Circuit — SPICE Netlist
* ============================================================================
* Solar-charged, dusk-activated LED shimmer using CD4093 Schmitt-trigger NAND
* gates, NPN steady driver, and PNP twinkle drivers.
*
* Simulator compatibility: ngspice, LTspice, HSPICE
* To run:  ngspice diamond-mine-shimmer.cir
*          (or open in LTspice)
*
* Node naming convention:
*   vdd, gnd          — power rails
*   sense             — LDR / dusk detector node
*   dark              — Gate 1 output (enable signal)
*   fade              — RC ramp node (Q1 base drive)
*   rc1, rc2          — oscillator RC timing nodes
*   osc1, osc2        — oscillator outputs (Gate 2, Gate 3)
*   q1_col            — Q1 collector (steady LED bank)
*   q2_col, q3_col    — Q2/Q3 collectors (twinkle LED banks)
* ============================================================================

.title Diamond Mine Shimmer Circuit

* ============================================================================
* SIMULATION PARAMETERS
* ============================================================================
.param Vbat_nom = 3.6
.param Vbat_init = 3.6
.param Vsolar_oc = 5.5
.param Rsolar_int = 25
.param R_ldr = 1e6

* ============================================================================
* SECTION A: POWER AND CHARGING
* ============================================================================

* Battery: 3x AA NiMH in series (modeled as voltage source + ESR)
Vbat vdd gnd DC {Vbat_init}

* Solar panel (voltage source + internal resistance)
* For transient simulation, can replace with PWL source for day/night cycle
Vsolar solar_p gnd DC {Vsolar_oc}
Rsolar solar_p solar_bus {Rsolar_int}

* Charge current limiting resistor (10 ohm, 1/2W)
Rcharge solar_bus diode_a 10

* 1N5819 Schottky blocking diode
D1 diode_a vdd D1N5819

* Bypass capacitor (0.1uF ceramic, close to IC)
Cbypass vdd gnd 0.1u IC={Vbat_init}

* ============================================================================
* SECTION B: DUSK DETECTOR (Gate 1)
* ============================================================================

* LDR: VDD to SENSE node
* In darkness: R_ldr ~ 1M (SENSE low → DARK goes HIGH)
* In bright light: R_ldr ~ 5k (SENSE high → DARK stays LOW)
Rldr vdd sense {R_ldr}

* Pull-down network: 470k + (100k_trimpot || 47k) to GND
* Trimpot modeled at midpoint (50k)
R_div1 sense threshold 470k
R_trim threshold gnd 50k
R_div2 threshold gnd 47k

* Gate 1: Schmitt NAND with inputs tied (inverter mode)
* Both inputs connected to SENSE node
XG1 sense sense dark vdd gnd CD4093_GATE

* ============================================================================
* SECTION C: FADE-IN RAMP
* ============================================================================

* DARK → 470k → FADE node → 100uF → GND
* tau = 470k * 100uF = 47 seconds
Rfade dark fade 470k
Cfade fade gnd 100u IC=0

* Q1 base drive: FADE → 10k → Q1 base
Rb1 fade q1b 10k

* ============================================================================
* SECTION D: OSCILLATOR 1 — Gate 2 (Gated)
* ============================================================================

* Pin 5 (InA) = DARK (gating input)
* Pin 6 (InB) = RC1 node (oscillator feedback)
* Pin 4 (Out) = OSC1
XG2 dark rc1 osc1 vdd gnd CD4093_GATE

* Feedback path: output → 1M + trimpot → RC node
Rosc1 osc1 osc1_mid 1Meg
Rtrim1 osc1_mid rc1 50k

* Timing capacitor: RC node → 0.47uF → GND
Cosc1 rc1 gnd 0.47u IC=0

* ============================================================================
* SECTION E: OSCILLATOR 2 — Gate 3 (Gated)
* ============================================================================

* Pin 8 (InA) = DARK (gating input)
* Pin 9 (InB) = RC2 node (oscillator feedback)
* Pin 10 (Out) = OSC2
XG3 dark rc2 osc2 vdd gnd CD4093_GATE

* Feedback path: output → 1M + trimpot → RC node
* Trimpot set to different value than Osc 1 for beat frequency
Rosc2 osc2 osc2_mid 1Meg
Rtrim2 osc2_mid rc2 80k

* Timing capacitor: RC node → 0.47uF → GND
Cosc2 rc2 gnd 0.47u IC=0

* ============================================================================
* SECTION F: UNUSED GATE 4
* ============================================================================

* Inputs tied to VDD (output unused, drives into open)
XG4 vdd vdd g4_nc vdd gnd CD4093_GATE
Rg4_dummy g4_nc gnd 10Meg

* ============================================================================
* SECTION G: LED DRIVERS
* ============================================================================

* --- Q1: Steady Bank Driver (NPN 2N3904, low-side) ---
* FADE → 10k → base, emitter → GND, collector → LED cathodes
Q1 q1_col q1b gnd Q2N3904

* Steady LEDs: VDD → 1.5k → LED → Q1 collector
Rs1 vdd s1a 1.5k
Ds1 s1a q1_col DLED
Rs2 vdd s2a 1.5k
Ds2 s2a q1_col DLED
Rs3 vdd s3a 1.5k
Ds3 s3a q1_col DLED

* --- Q2: Twinkle Bank 1 Driver (PNP 2N3906, high-side) ---
* OSC1 → 100k → base, emitter → VDD, collector → LED anodes
Rb2 osc1 q2b 100k
Q2 q2_col q2b vdd Q2N3906

* Twinkle 1 LEDs: Q2 collector → LED → 2.2k → GND
Dt1 q2_col t1k DLED
Rt1 t1k gnd 2.2k
Dt2 q2_col t2k DLED
Rt2 t2k gnd 2.2k
Dt3 q2_col t3k DLED
Rt3 t3k gnd 2.2k

* --- Q3: Twinkle Bank 2 Driver (PNP 2N3906, high-side) ---
* OSC2 → 100k → base, emitter → VDD, collector → LED anodes
Rb3 osc2 q3b 100k
Q3 q3_col q3b vdd Q2N3906

* Twinkle 2 LEDs: Q3 collector → LED → 2.2k → GND
Dt4 q3_col t4k DLED
Rt4 t4k gnd 2.2k
Dt5 q3_col t5k DLED
Rt5 t5k gnd 2.2k
Dt6 q3_col t6k DLED
Rt6 t6k gnd 2.2k

* ============================================================================
* SUBCIRCUIT: CD4093 Schmitt-Trigger NAND Gate (Behavioral)
* ============================================================================
* Inputs: inA, inB
* Output: out
* Power: vdd, vss
*
* Behavior:
*   NAND: output LOW only when both inputs above upper threshold
*   Schmitt hysteresis via positive feedback from output
*   VT+ ~ 0.66*VDD, VT- ~ 0.33*VDD
*
* Modeled using resistive voltage dividers with output feedback to
* create hysteresis, and a behavioral voltage source for the NAND logic.
* ============================================================================

.subckt CD4093_GATE inA inB out vdd vss

* High input impedance (CMOS)
RinA inA vss 1e12
RinB inB vss 1e12

* Schmitt thresholds via positive feedback
* Internal nodes a_int and b_int track inputs with hysteresis
RfwdA inA a_int 100k
RfbA out a_int 300k
CfA a_int vss 10p

RfwdB inB b_int 100k
RfbB out b_int 300k
CfB b_int vss 10p

* NAND logic: output LOW when both a_int and b_int are above VDD/2
* B-source: behavioral voltage
Bnand out_int vss V={IF(V(a_int,vss) > V(vdd,vss)*0.5 & V(b_int,vss) > V(vdd,vss)*0.5, V(vss), V(vdd,vss))}

* Output buffer with finite rise/fall (~100ns for CD4093 at 3.6V)
Rout out_int out 100
Cout out vss 100p

.ends CD4093_GATE

* ============================================================================
* DEVICE MODELS
* ============================================================================

* 1N5819 Schottky Diode
.model D1N5819 D(Is=31.7e-9 Rs=0.051 N=1.1 BV=40 IBV=1e-3
+ Cjo=110p M=0.35 VJ=0.6 TT=5.04e-9)

* Red/Amber LED (Vf ~ 1.8-2.0V at low current)
.model DLED D(Is=1e-20 Rs=5 N=2.0 BV=5 IBV=1e-6 Cjo=10p)

* 2N3904 NPN Transistor
.model Q2N3904 NPN(Is=6.734f Xti=3 Eg=1.11 Vaf=74.03 Bf=416.4
+ Ne=1.259 Ise=6.734f Ikf=66.78m Xtb=1.5 Br=0.7389 Nc=2
+ Isc=0 Ikr=0 Rc=1 Cjc=3.638p Mjc=0.3085 Vjc=0.75
+ Fc=0.5 Cje=4.493p Mje=0.2593 Vje=0.75 Tr=239.5n
+ Tf=301.2p Itf=0.4 Vtf=4 Xtf=2 Rb=10)

* 2N3906 PNP Transistor
.model Q2N3906 PNP(Is=1.41f Xti=3 Eg=1.11 Vaf=18.7 Bf=180.7
+ Ne=1.5 Ise=0 Ikf=80m Xtb=1.5 Br=4.977 Nc=2
+ Isc=0 Ikr=0 Rc=2.5 Cjc=9.728p Mjc=0.5776 Vjc=0.75
+ Fc=0.5 Cje=8.063p Mje=0.3677 Vje=0.75 Tr=33.42n
+ Tf=179.3p Itf=0.4 Vtf=4 Xtf=6 Rb=10)

* ============================================================================
* SIMULATION COMMANDS
* ============================================================================

* --- Operating Point (DC bias) ---
* Uncomment to check quiescent conditions:
* .op

* --- Transient: Dusk activation (120 seconds) ---
* Shows fade-in ramp and oscillator startup
* LDR is set to dark (1M) so DARK = HIGH from the start
.tran 10m 120s 0 10m UIC

* --- DC Sweep: Dusk threshold ---
* Uncomment to characterize the dusk detector trip point:
* .dc Rldr 1k 2Meg 10k

* --- Measurements ---
.meas tran I_steady_avg AVG I(Rs1) FROM=60s TO=120s
.meas tran I_twinkle1_avg AVG I(Rt1) FROM=60s TO=120s
.meas tran I_twinkle2_avg AVG I(Rt4) FROM=60s TO=120s
.meas tran V_fade_60s FIND V(fade) AT=60s
.meas tran V_dark_ss FIND V(dark) AT=1s

* --- Probe nodes ---
.save V(dark) V(fade) V(osc1) V(osc2) V(sense)
.save V(q1_col) V(q2_col) V(q3_col)
.save I(Vbat)

.end
